US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2-methylbenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide and o-toluenesulfonylchloride (51 mg, 0.269 mmol) to give 18 mg as purple solid. M+1 501.3 Calcd 501.15. 1HNMR δ 7.78-7.17 (m, 9H), 6.68-6.35 (m, 3H), 3.63-3.10 (m, 8H), 2.59 (s, 3H), 2.09-2.01 (m, 2H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | o-toluenesulfonylchloride | 0.269 mmol, 51 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2-methylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=C(C=CC=C1)C)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C24H28N4O4S2.ClH/c1-19-8-5-6-11-24(19)34(31,32)26-22-13-12-20(28-16-7-14-25-15-17-28)18-23(22)27-33(29,30)21-9-3-2-4-10-21;/h2-6,8-13,18,25-27H,7,14-17H2,1H3;1H
